US08536187B2
4-{[6-(4-Fluoro-3-methanesulfonyl-phenyl)-4-(1-trifluoromethyl-cyclopropylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide;
4-{[6-(3-Methanesulfonyl-4-methyl-phenyl)-4-(1-trifluoromethyl-cyclopropylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide; 4-{[6-(3-Methanesulfonyl-4-methoxy-phenyl)-4-(1-trifluoromethyl-cyclopropylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide; 4-{[6-(4-Chloro-3-methanesulfonyl-phenyl)-4-(1-trifluoromethyl-cyclopropylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide; 4-{[6-(3-Cyclopropanesulfonyl-4-methoxy-phenyl)-4-(1-trifluoromethyl-cyclopropylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide; 6-(3-Methanesulfonyl-4-methoxy-phenyl)-N2-[1-(4-[1,2,4]triazol-1-yl-phenyl)-ethyl]-N4-(1-trifluoromethyl-cyclopropyl)-pyrido[3,2-d]pyrimidine-2,4-diamine

reactant | 4-{[6-(3-Methanesulfonyl-4-methyl-phenyl)-4-(1-trifluoromethyl-cyclopropylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide | CS(=O)(=O)C=1C=C(C=CC1C)C=1C=CC=2N=C(N=C(C2N1)NC1(CC1)C(F)(F)F)NCC1=CC=C(C=C1)S(=O)(=O)N | C26H25F3N6O4S2
reactant | 4-{[6-(3-Methanesulfonyl-4-methoxy-phenyl)-4-(1-trifluoromethyl-cyclopropylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide | CS(=O)(=O)C=1C=C(C=CC1OC)C=1C=CC=2N=C(N=C(C2N1)NC1(CC1)C(F)(F)F)NCC1=CC=C(C=C1)S(=O)(=O)N | C26H25F3N6O5S2
reactant | 4-{[6-(4-Chloro-3-methanesulfonyl-phenyl)-4-(1-trifluoromethyl-cyclopropylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide | ClC1=C(C=C(C=C1)C=1C=CC=2N=C(N=C(C2N1)NC1(CC1)C(F)(F)F)NCC1=CC=C(C=C1)S(=O)(=O)N)S(=O)(=O)C | C25H22ClF3N6O4S2
reactant | 4-{[6-(3-Cyclopropanesulfonyl-4-methoxy-phenyl)-4-(1-trifluoromethyl-cyclopropylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide | C1(CC1)S(=O)(=O)C=1C=C(C=CC1OC)C=1C=CC=2N=C(N=C(C2N1)NC1(CC1)C(F)(F)F)NCC1=CC=C(C=C1)S(=O)(=O)N | C28H27F3N6O5S2
reactant | 6-(3-Methanesulfonyl-4-methoxy-phenyl)-N2-[1-(4-[1,2,4]triazol-1-yl-phenyl)-ethyl]-N4-(1-trifluoromethyl-cyclopropyl)-pyrido[3,2-d]pyrimidine-2,4-diamine | CS(=O)(=O)C=1C=C(C=CC1OC)C=1C=CC=2N=C(N=C(C2N1)NC1(CC1)C(F)(F)F)NC(C)C1=CC=C(C=C1)N1N=CN=C1 | C29H27F3N8O3S
product | 4-{[6-(4-Fluoro-3-methanesulfonyl-phenyl)-4-(1-trifluoromethyl-cyclopropylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide | FC1=C(C=C(C=C1)C=1C=CC=2N=C(N=C(C2N1)NC1(CC1)C(F)(F)F)NCC1=CC=C(C=C1)S(=O)(=O)N)S(=O)(=O)C | C25H22F4N6O4S2
